US05719141
c) 1-Benzyl-3(R,S)-1hydroxyethyl-1,2,3,4-tetrahydroquinoline
1.12 ml of methyliodide are added dropwise to 0.435 g of magnesium powder, suspended in 50 ml of diethyl ether, in the course of 10 min. After the mixture has been subsequently stirred for 0.5 h, 1.5 g of 1-benzyl-3(R,S)-formyl-1,2,3,4-tetrahydroquinoline, dissolved in 10 ml of diethyl ether, are added dropwise. The mixture is subsequently stirred for 0.5 h and then poured onto ice-water. The crude product extracted with methylene chloride is purified by means of FC over 150 g of silica gel (mobile phase B): Rf (B)=0.31; Rf (D)=0.15.

reactant | methyliodide | 1.12 ml | CI | CH3I
reactant | magnesium | 0.435 g | [Mg] | Mg
reactant | 1-benzyl-3(R,S)-formyl-1,2,3,4-tetrahydroquinoline | 1.5 g | C(C1=CC=CC=C1)N1CC(CC2=CC=CC=C12)C=O | C17H17NO
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-Benzyl-3(R,S)-1hydroxyethyl-1,2,3,4-tetrahydroquinoline | C(C1=CC=CC=C1)N1CC(CC2=CC=CC=C12)C(C)O | C18H21NO
